* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : adder1bit                                    *
* Netlisted  : Sun Nov 17 14:10:46 2019                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MN(g45n1hvt) _nmos1v_hvt ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 2 MN(g45n1lvt) _nmos1v_lvt ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 3 MN(g45n1nvt) _nmos_12_native ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 4 MN(g45n2svt) _nmos_25 ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 5 MN(g45n2nvt) _nmos_25_native ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 6 MN(g45ncap1) _nmoscap1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 7 MN(g45ncap2) _nmoscap2v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 8 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 9 MP(g45p1hvt) _pmos1v_hvt pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 10 MP(g45p1lvt) _pmos1v_lvt pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 11 MP(g45p2svt) _pmos2v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 12 MP(g45pcap1) _pmoscap1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 13 MP(g45pcap2) _pmoscap2v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 14 R(g45rm1) _resm1 metal1_conn(PLUS) metal1_conn(MINUS)
*.DEVTMPLT 15 R(g45rm2) _resm2 metal2_conn(PLUS) metal2_conn(MINUS)
*.DEVTMPLT 16 R(g45rm3) _resm3 metal3_conn(PLUS) metal3_conn(MINUS)
*.DEVTMPLT 17 R(g45rm4) _resm4 metal4_conn(PLUS) metal4_conn(MINUS)
*.DEVTMPLT 18 R(g45rm5) _resm5 metal5_conn(PLUS) metal5_conn(MINUS)
*.DEVTMPLT 19 R(g45rm6) _resm6 metal6_conn(PLUS) metal6_conn(MINUS)
*.DEVTMPLT 20 R(g45rm7) _resm7 metal7_conn(PLUS) metal7_conn(MINUS)
*.DEVTMPLT 21 R(g45rm8) _resm8 metal8_conn(PLUS) metal8_conn(MINUS)
*.DEVTMPLT 22 R(g45rm9) _resm9 metal9_conn(PLUS) metal9_conn(MINUS)
*.DEVTMPLT 23 R(g45rm10) _resm10 metal10_conn(PLUS) metal10_conn(MINUS)
*.DEVTMPLT 24 R(g45rm11) _resm11 metal11_conn(PLUS) metal11_conn(MINUS)
*.DEVTMPLT 25 R(g45rsnd) _ressndiff ndiff_conn(PLUS) ndiff_conn(MINUS) psubstrate(B)
*.DEVTMPLT 26 R(g45rnsnd) _resnsndiff ndiff_conn(PLUS) ndiff_conn(MINUS) psubstrate(B)
*.DEVTMPLT 27 R(g45rsnp) _ressnpoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 28 R(g45rsnp) _ressnpoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 29 R(g45rnsnp) _resnsnpoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 30 R(g45rnsnp) _resnsnpoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 31 R(g45rspd) _resspdiff pdiff_conn(PLUS) pdiff_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 32 R(g45rnspd) _resnspdiff pdiff_conn(PLUS) pdiff_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 33 R(g45rspp) _ressppoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 34 R(g45rspp) _ressppoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 35 R(g45rnspp) _resnsppoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 36 R(g45rnspp) _resnsppoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 37 R(g45rnws) _resnwsti nwell_conn(PLUS) nwell_conn(MINUS) psubstrate(B)
*.DEVTMPLT 38 R(g45rnwo) _resnwoxide nwell_conn(PLUS) nwell_conn(MINUS) psubstrate(B)
*.DEVTMPLT 39 D(g45nd1svt) _ndio psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 40 D(g45nd1lvt) _ndio_lvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 41 D(g45nd1hvt) _ndio_hvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 42 D(g45nd1nvt) _ndio_nvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 43 D(g45nd2svt) _ndio_2v psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 44 D(g45nd2nvt) _ndio_2v_nvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 45 D(g45pd1svt) _pdio pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 46 D(g45pd1lvt) _pdio_lvt pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 47 D(g45pd1hvt) _pdio_hvt pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 48 D(g45pd2svt) _pdio_2v pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 49 Q(g45vpnp2) _vpnp2 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 50 Q(g45vpnp5) _vpnp5 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 51 Q(g45vpnp10) _vpnp10 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 52 Q(g45vnpn2) _npn2 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 53 Q(g45vnpn5) _npn5 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 54 Q(g45vnpn10) _npn10 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 55 C(g45cmim) _mimcap CapMetal(PLUS) metal10_conn(MINUS) psubstrate(B)
*.DEVTMPLT 56 L(g45inda) _ind_a ind10(PLUS) ind11(MINUS) psubstrate(B)
*.DEVTMPLT 57 L(g45inds) _ind_s ind11(PLUS) ind11(MINUS) psubstrate(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L                                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L PLUS MINUS B
.ends L

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_2 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_3 1 2
** N=2 EP=2 FDC=0
.ends M1_PO_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_4                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_4 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_5                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_5 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_8                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_8 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=3.52678 scb=0.000111658 scc=3.66286e-09 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_8

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_9                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_9 1 2 3
*.DEVICECLIMB
** N=3 EP=3 FDC=0
.ends nmos1v_CDNS_9

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_10                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_10 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 4 g45n1svt L=4.5e-08 W=3.6e-07 AD=5.04e-14 AS=5.04e-14 PD=1e-06 PS=1e-06 fw=3.6e-07 sa=1.4e-07 sb=1.4e-07 sca=3.38446 scb=0.000101379 scc=3.37079e-09 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_10

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_11                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_11 1 2 3
** N=3 EP=3 FDC=1
M0 1 3 2 2 g45n1svt L=4.5e-08 W=3.6e-07 AD=5.04e-14 AS=5.04e-14 PD=1e-06 PS=1e-06 fw=3.6e-07 sa=1.4e-07 sb=1.4e-07 sca=3.38446 scb=0.000101379 scc=3.37079e-09 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_11

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_12                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_12 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 2 g45p1svt L=4.5e-08 W=1.44e-06 AD=2.016e-13 AS=2.016e-13 PD=3.16e-06 PS=3.16e-06 fw=1.44e-06 sa=1.4e-07 sb=1.4e-07 sca=50.2698 scb=0.0459577 scc=0.00521141 $X=0 $Y=0 $dt=8
.ends pmos1v_CDNS_12

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_13                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_13 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.84e-14 AS=3.84e-14 PD=8e-07 PS=8e-07 fw=2.4e-07 sa=1.6e-07 sb=1.6e-07 sca=10.4126 scb=0.0095497 scc=0.000351079 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_13

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_14                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_14 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 2 g45p1svt L=4.5e-08 W=9.6e-07 AD=1.344e-13 AS=1.344e-13 PD=2.2e-06 PS=2.2e-06 fw=9.6e-07 sa=1.4e-07 sb=1.4e-07 sca=60.7273 scb=0.052047 scc=0.00636181 $X=0 $Y=0 $dt=8
.ends pmos1v_CDNS_14

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_15                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_15 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 2 g45p1svt L=4.5e-08 W=4.8e-07 AD=6.72e-14 AS=6.72e-14 PD=1.24e-06 PS=1.24e-06 fw=4.8e-07 sa=1.4e-07 sb=1.4e-07 sca=89.776 scb=0.0691449 scc=0.00981048 $X=0 $Y=0 $dt=8
.ends pmos1v_CDNS_15

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_16                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_16 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 3 2 2 g45p1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=139.159 scb=0.0903411 scc=0.0163539 $X=0 $Y=0 $dt=8
.ends pmos1v_CDNS_16

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_17                                  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_17 1 2 3
*.DEVICECLIMB
** N=3 EP=3 FDC=0
.ends nmos1v_CDNS_17

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: adder1bit                                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt adder1bit cout
** N=19 EP=1 FDC=28
X0 1 M1_PO_CDNS_1 $T=7170 6440 0 0 $X=7070 $Y=6320
X1 1 M1_PO_CDNS_1 $T=7170 7280 0 0 $X=7070 $Y=7160
X2 2 M1_PO_CDNS_1 $T=15775 7320 0 0 $X=15675 $Y=7200
X3 3 M1_PO_CDNS_2 $T=1960 16260 0 0 $X=1845 $Y=16140
X4 3 M1_PO_CDNS_2 $T=3415 1915 0 0 $X=3300 $Y=1795
X5 3 M1_PO_CDNS_2 $T=9995 5160 0 0 $X=9880 $Y=5040
X6 3 4 M1_PO_CDNS_3 $T=3040 16255 0 0 $X=2920 $Y=16160
X7 5 4 M1_PO_CDNS_3 $T=4200 3695 0 0 $X=4080 $Y=3600
X8 3 4 M1_PO_CDNS_3 $T=5160 1915 0 0 $X=5040 $Y=1820
X9 3 4 M1_PO_CDNS_3 $T=12200 5140 0 0 $X=12080 $Y=5045
X10 5 M1_PO_CDNS_4 $T=3220 9995 0 0 $X=3100 $Y=9880
X11 3 M1_PO_CDNS_4 $T=4980 16255 0 0 $X=4860 $Y=16140
X12 3 M1_PO_CDNS_4 $T=4980 18820 0 0 $X=4860 $Y=18705
X13 6 M1_PO_CDNS_4 $T=6220 11995 0 0 $X=6100 $Y=11880
X14 6 M1_PO_CDNS_4 $T=6320 9295 0 0 $X=6200 $Y=9180
X15 3 M1_PO_CDNS_4 $T=7020 18195 0 0 $X=6900 $Y=18080
X16 7 M1_PO_CDNS_4 $T=7640 7360 0 0 $X=7520 $Y=7245
X17 7 M1_PO_CDNS_4 $T=7640 7995 0 0 $X=7520 $Y=7880
X18 5 M1_PO_CDNS_5 $T=3945 16855 0 0 $X=3845 $Y=16615
X19 7 M1_PO_CDNS_5 $T=8535 6900 0 0 $X=8435 $Y=6660
X20 8 4 3 4 nmos1v_CDNS_8 $T=3380 4580 0 0 $X=2960 $Y=4380
X21 7 9 3 4 nmos1v_CDNS_8 $T=6040 6120 0 0 $X=5620 $Y=5920
X22 2 10 7 4 nmos1v_CDNS_8 $T=9010 5360 0 0 $X=8590 $Y=5160
X23 8 4 5 nmos1v_CDNS_9 $T=4790 4580 0 0 $X=4210 $Y=4380
X24 9 4 5 nmos1v_CDNS_9 $T=6080 4580 0 0 $X=5500 $Y=4380
X25 10 4 3 nmos1v_CDNS_9 $T=8920 3600 0 0 $X=8340 $Y=3400
X26 10 4 5 nmos1v_CDNS_9 $T=10310 3600 0 0 $X=9730 $Y=3400
X27 10 4 6 nmos1v_CDNS_9 $T=11830 3600 0 0 $X=11250 $Y=3400
X28 11 12 3 4 nmos1v_CDNS_10 $T=14100 4060 0 0 $X=13680 $Y=3860
X29 2 11 6 4 nmos1v_CDNS_10 $T=14110 6160 0 0 $X=13690 $Y=5960
X30 12 4 5 nmos1v_CDNS_11 $T=14160 2490 0 0 $X=13580 $Y=2290
X31 13 14 3 4 pmos1v_CDNS_12 $T=11280 15010 0 0 $X=10600 $Y=14810
X32 2 15 6 4 pmos1v_CDNS_12 $T=11300 6930 0 0 $X=10620 $Y=6730
X33 15 13 5 4 pmos1v_CDNS_12 $T=13880 10910 0 0 $X=13200 $Y=10710
X34 7 8 6 4 nmos1v_CDNS_13 $T=4020 6110 0 0 $X=3560 $Y=5870
X35 16 17 5 4 pmos1v_CDNS_14 $T=3100 10810 0 0 $X=2420 $Y=10610
X36 7 16 3 4 pmos1v_CDNS_14 $T=4020 7230 0 0 $X=3340 $Y=7030
X37 17 1 3 4 pmos1v_CDNS_15 $T=3160 14770 0 0 $X=2480 $Y=14570
X38 7 17 6 4 pmos1v_CDNS_15 $T=5580 10770 0 0 $X=4900 $Y=10570
X39 17 1 5 4 pmos1v_CDNS_15 $T=5600 13940 0 0 $X=4920 $Y=13740
X40 14 1 6 4 pmos1v_CDNS_15 $T=7660 19420 0 0 $X=6980 $Y=19220
X41 2 14 7 4 pmos1v_CDNS_15 $T=8830 8130 0 0 $X=8150 $Y=7930
X42 14 1 3 4 pmos1v_CDNS_15 $T=9470 19400 0 0 $X=8790 $Y=19200
X43 14 1 5 4 pmos1v_CDNS_15 $T=11270 19390 0 0 $X=10590 $Y=19190
X44 cout 1 7 4 pmos1v_CDNS_16 $T=7660 4640 0 0 $X=6980 $Y=4440
X45 19 1 2 4 pmos1v_CDNS_16 $T=16150 8390 0 0 $X=15470 $Y=8190
X46 cout 4 7 nmos1v_CDNS_17 $T=7410 3150 0 0 $X=6830 $Y=2950
X47 19 4 2 nmos1v_CDNS_17 $T=16150 6240 0 0 $X=15570 $Y=6040
M0 8 5 4 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=3.52678 scb=0.000111658 scc=3.66286e-09 $X=4790 $Y=4580 $dt=0
M1 9 5 4 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=8.05681 scb=0.00604845 scc=8.48972e-05 $X=6080 $Y=4580 $dt=0
M2 cout 7 4 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=5.39055 scb=0.00135859 scc=2.83039e-06 $X=7410 $Y=3150 $dt=0
M3 10 3 4 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=3.52678 scb=0.000111658 scc=3.66286e-09 $X=8920 $Y=3600 $dt=0
M4 10 5 4 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=3.52678 scb=0.000111658 scc=3.66286e-09 $X=10310 $Y=3600 $dt=0
M5 10 6 4 4 g45n1svt L=4.5e-08 W=2.4e-07 AD=3.36e-14 AS=3.36e-14 PD=7.6e-07 PS=7.6e-07 fw=2.4e-07 sa=1.4e-07 sb=1.4e-07 sca=3.52678 scb=0.000111658 scc=3.66286e-09 $X=11830 $Y=3600 $dt=0
M6 19 2 4 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=3.90754 scb=0.000173621 scc=9.53073e-09 $X=16150 $Y=6240 $dt=0
.ends adder1bit
